US04009208
19. N,N'-Heptamethylenebis[4-(2-chloro-1,1,2-trifluoroethoxy)benzamide]
m.p. 153°-154° C., 16.0 g., was prepared as in Example 16 using 4-(2-chloro-1,1,2-trifluoroethoxy)benzoyl chloride (from 23.0 g. of the corresponding acid as in Example 16) in 150 ml. of ethylene dichloride, 5.8 g. of 1,7-heptanediamine, 200 ml. of 10% aqueous potassium hydroxide solution, 500 ml. of ethylene dichloride and recrystallization from acetonitrile using decolorizing charcoal.

reactant | 4-(2-chloro-1,1,2-trifluoroethoxy)benzoyl chloride | ClC(C(OC1=CC=C(C(=O)Cl)C=C1)(F)F)F | C9H5Cl2F3O2
reactant | 1,7-heptanediamine | C(CCCCCCN)N | C7H18N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-Heptamethylenebis[4-(2-chloro-1,1,2-trifluoroethoxy)benzamide] | ClC(C(OC1=CC=C(C(=O)NCCCCCCCNC(C2=CC=C(C=C2)OC(C(Cl)F)(F)F)=O)C=C1)(F)F)F | C25H26Cl2F6N2O4
